US06680317B2
2-tert-Butyl-6-chloro-7-(4-methyl-piperazine-1-sulfonyl)-benzooxazole
To a solution of 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride (2.69 g, 8.73 mmol) and triethylamine (2.44 mL, 17.5 mmol) in THF (60 mL) at 0° C. was added 1-methylpiperazine (0.98 mL, 8.83 mmol). The reaction was warmed to room temperature and allowed to stir overnight. The solution was concentrated and then diluted with water and extacted with ethyl acetate (3 times). The combined organic layers were dried with MgSO4, filtered, and concentrated. Flash chromatography (80% ethyl acetate/20% Ethanol) on silica gel gave the title compound (2.45 g, 76%). EI-MS m/z 372(M+H)+.

reactant | 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride | 8.73 mmol, 2.69 g | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
reactant | triethylamine | 17.5 mmol, 2.44 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 8.83 mmol, 0.98 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-tert-Butyl-6-chloro-7-(4-methyl-piperazine-1-sulfonyl)-benzooxazole | 2.45 g, 76% | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)N2CCN(CC2)C)Cl | C16H22ClN3O3S
